US07064215B2
Step 2. Synthesis of 3-[(2S,4S)-4-dimethylamino-2-methylpyrrolidin-1-yl]-1-amino-6-nitrobenzene
(2S,4S)-4-dimethylamino-2-methylpyrrolidine (1.0 equivalent) and 1-amino-3-fluoro-6-nitrobenzene (1.2 equivalents) were dissolved in N-methylpyrrolidinone, and Et3N (5.0 equivalents) was added. The solution was heated for 5 hours at 100° C. The solution was then cooled and diluted with water. The aqueous layer was extracted with ethyl acetate. The organic layer was then washed twice with H2O, once with brine, dried over Na2SO4, filtered, and concentrated. The crude material was purified by column chromatography (1:1 ethyl acetate:hexane to 1:20 MeOH:ethyl acetate to 1:1 MeOH: ethyl acetate to give the title compound as a yellow gum. LC/MS (m/z) 265.2 (MH+), Rt 1.65 minutes.

reactant | (2S,4S)-4-dimethylamino-2-methylpyrrolidine | 1.0 equivalent | CN([C@H]1C[C@@H](NC1)C)C | C7H16N2
reactant | 1-amino-3-fluoro-6-nitrobenzene | 1.2 equivalents | NC1=CC(=CC=C1[N+](=O)[O-])F | C6H5FN2O2
reactant | Et3N | 5.0 equivalents | CCN(CC)CC | C6H15N
solvent | N-methylpyrrolidinone | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 3-[(2S,4S)-4-dimethylamino-2-methylpyrrolidin-1-yl]-1-amino-6-nitrobenzene | CN([C@H]1C[C@@H](N(C1)C=1C=C(C(=CC1)[N+](=O)[O-])N)C)C | C13H20N4O2
